US04348265
In U.S. Pat. No. 2,193,823, a method is taught for low yield α-chlorination of ethylpentachlorobenzene by contacting the same in the liquid phase at elevated temperature with chlorine gas in the presence of the light of an ordinary electric light bulb to produce α-chloroethylpentachlorobenzene. The desired product must be separated from the reaction mixture by treating the mixture chemically to remove residual chlorine, followed by two vacuum distillation steps.

reactant | ethylpentachlorobenzene | C(C)C1=C(C(=C(C(=C1Cl)Cl)Cl)Cl)Cl | C8H5Cl5
reactant | chlorine | ClCl | Cl2
product | α-chloroethylpentachlorobenzene | ClC(C)C1=C(C(=C(C(=C1Cl)Cl)Cl)Cl)Cl | C8H4Cl6
